US06174881B1
A solution of 1.2 g of 2-chloromethyl-6-(2-fluorophenyl)-8-iodo-4H-imidazo [1,2-a][1,4]benzodiazepine in 20 ml of dioxan was treated with a solution of 0.4 g of sodium hydrogen carbonate in 10 ml of water and the mixture was stirred at 80° C. for 2 h. The mixture was filtered and the filtrate was made weakly acidic (pH 6 to 7) with aqueous 3N hydrochloric acid. The filtrate was evaporated in a vacuum and the residue was taken up in chloroform and water. The chloroform phase was washed with water, dried over sodium sulphate and evaporated in a vacuum. The residue was recrystallized from ethanol. There was obtained 0.6 g of amorphous 6-(2-fluorophenyl)-8-iodo-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol which was converted into the crystalline hydrochloride (m.p. 274-276° C.),

reactant | 2-chloromethyl-6-(2-fluorophenyl)-8-iodo-4H-imidazo [1,2-a][1,4]benzodiazepine | 1.2 g | ClCC=1N=C2N(C3=C(C(=NC2)C2=C(C=CC=C2)F)C=C(C=C3)I)C1 | C18H12ClFIN3
reactant | sodium hydrogen carbonate | 0.4 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 6-(2-fluorophenyl)-8-iodo-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 0.6 g | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C=C(N2)CO | C18H13FIN3O
